US08703795B2
a) 4-Cyano-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester
A mixture of 4-bromo-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester (example 44 a, 165 mg, 0.5 mmol), CuCN (181 mg, 2 mmol), tris(dibenzylideneacetone)dipalladium(0) (46 mg, 0.05 mmol), 1,1′-bis(diphenylphosphino)ferrocene (114 mg, 0.2 mmol), tetraethylammonium cyanide (83 mg, 0.5 mmol), and anhydrous 1.4-dioxane (3 ml) was heated in a microwave oven at 140° C. with stirring for 15 min. Then silica gel was added and the mixture concentrated in vacuo. The residue was added on top of a short column filled with silica gel. Elution with ethyl acetate:hexanes=1:1 and in vacuo concentration gave a tan solid (209 mg). Purification by flash column chromatography on silica gel using ethyl acetate:hexanes=3:7 and then 1:1 gave the title compound as a tan solid (63 mg); MS-(+)-ion: MS-(−)-ion: M−1=275.1.

reactant | 4-bromo-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)Br)C=CS2)O | C12H12BrNO3S
reactant | CuCN | 2 mmol, 181 mg | C(#N)[Cu]
catalyst | tetraethylammonium cyanide | 0.5 mmol, 83 mg | [C-]#N.C(C)[N+](CC)(CC)CC
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.05 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.2 mmol, 114 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1.4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-Cyano-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester | 209 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C#N)C=CS2)O | C13H12N2O3S
